US05320765
1,3,5-tris (3,5-di-tert-butyl-4-hydroxybenzyl)-2,4,6-trimethylbenzene;
di(3,5-di-tert-butyl-4-hydroxybenzyl) sulfide; 3,5-di-tert-butyl-4-hydroxybenzylmercaptoacetic acid isooctyl ester; bis(4-tert-butyl-3-hydroxy-2,6-dimethylbenzyl) dithioterephthalate; 1,3,5-tris (3,5-di-tertbutyl-4-hydroxybenzyl)isocyanurate; 1,3,5-tris(4-tertbutyl-3-hydroxy-2,6-dimethylbenzyl) isocyanurate; 3,5-di-tert-butyl-4-hydroxybenzylphosphonic acid dioctadecyl ester 3,5-di-tert-butyl-4-hydroxybenzylphosphonic acid monoethyl ester calcium salt.

reactant | di(3,5-di-tert-butyl-4-hydroxybenzyl) sulfide | C(C)(C)(C)C=1C=C(CSCC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C(C1O)C(C)(C)C | C30H46O2S
reactant | 3,5-di-tert-butyl-4-hydroxybenzylmercaptoacetic acid isooctyl ester | C(CCCCC(C)C)OC(CSCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C25H42O3S
reactant | bis(4-tert-butyl-3-hydroxy-2,6-dimethylbenzyl) dithioterephthalate | C(C1=CC=C(C(=S)OCC2=C(C(=C(C=C2C)C(C)(C)C)O)C)C=C1)(=S)OCC1=C(C(=C(C=C1C)C(C)(C)C)O)C | C34H42O4S2
reactant | 3,5-di-tert-butyl-4-hydroxybenzylphosphonic acid dioctadecyl ester 3,5-di-tert-butyl-4-hydroxybenzylphosphonic acid monoethyl ester calcium salt | [Ca+2].C(C)OP([O-])(=O)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C.C(CCCCCCCCCCCCCCCCC)OP(OCCCCCCCCCCCCCCCCCC)(=O)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C.C(C)(C)(C)C=1C=C(CP(OCC)([O-])=O)C=C(C1O)C(C)(C)C
product | 1,3,5-tris (3,5-di-tert-butyl-4-hydroxybenzyl)-2,4,6-trimethylbenzene | C(C)(C)(C)C=1C=C(CC2=C(C(=C(C(=C2C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C)C=C(C1O)C(C)(C)C | C54H78O3
